US06528223B1
N,N-Dibutyl-N′-(3-methoxybenzoyl)thiourea (Compound 1-24)
To a solution of 38.87 g (0.40 mol) of potassium thiocyanate in 630 ml of acetone was added dropwise over 15 min, 68.24 g (0.40 mol) m-anisoyl chloride. The mixture was heated to reflux and maintained at reflux for 20 mins. To this mixture was added 51.7 g (0.40 mol) of dibutylamine over 10 min. The mixture was stirred overnight. The mixture was added to a mixture of 103 ml of conc. HCl in 840 ml of ice water. The oily residue was extracted with methylene chloride, dried over magnesium sulfate and concentrated. The yield of product was 94.62% and was used without further purification. Anal. Calcd. for C17H26N2O2S: C, 63.3; H, 8.1, N, 8.7; S, 9.9. Found: C, 62.54; H, 8.38; N, 8.66: S, 9.19.

reactant | potassium thiocyanate | 0.40 mol, 38.87 g | [S-]C#N.[K+]
reactant | m-anisoyl chloride | 0.40 mol, 68.24 g | C(C1=CC(=CC=C1)OC)(=O)Cl | C8H7ClO2
reactant | dibutylamine | 0.40 mol, 51.7 g | C(CCC)NCCCC | C8H19N
reactant | HCl | 103 ml | Cl | ClH
solvent | acetone | 630 ml | CC(=O)C | C3H6O
product | N,N-Dibutyl-N′-(3-methoxybenzoyl)thiourea | C(CCC)N(C(=S)NC(C1=CC(=CC=C1)OC)=O)CCCC | C17H26N2O2S
